US05041618
b) Preparation of methyl 2-(cinnamoylmethyl)-phenylglyoxalate
10.4 g (56 millimoles) of potassium transcinnamate and 12.0 g (47 millimoles) of methyl orthobromomethylphenylglyoxalate are dissolved in 250 ml of N-methylpyrrolidone, a pinch of potassium iodide is added and the mixture is stirred for 15 hours at room temperature (23° C.). Thereafter, the mixture is poured onto 500 ml of ice water and extracted with 3×200 ml of methyl tert-butyl ether and the organic phase is washed with water, dried over sodium sulfate and evaporated down in a rotary evaporator. The yield of ketoester is 15.0 g (99%). Thin layer chromatographic analysis shows that it is virtually pure.

reactant | potassium transcinnamate | 56 millimoles, 10.4 g | C(\C=C\C1=CC=CC=C1)(=O)[O-].[K+]
reactant | methyl orthobromomethylphenylglyoxalate | 47 millimoles, 12.0 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=O | C10H9BrO3
reactant | potassium iodide | [I-].[K+]
solvent | N-methylpyrrolidone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | methyl 2-(cinnamoylmethyl)-phenylglyoxalate | C(C=CC1=CC=CC=C1)(=O)CC1=C(C=CC=C1)C(C(=O)OC)=O | C19H16O4
